US04965270
(c) 2-Amino-6-chloro-9-(2,3-dihydroxyprop-1-oxy) purine
A solution of 9-allyloxy-2-amino-6-chloropurine (374 mg, 1.66 mmol) and osmium tetroxide (catalytic) in acetone (10 ml) and water (10 ml) was treated with 4-methylmorpholine N-oxide (290 mg, 2.49 mmol) and stirred under nitrogen at 25° C. for 16 hours. The reaction was evaporated to dryness under reduced pressure and the residue chromatographed on silica gel (eluted with acetone) affording the title compound (325 mg, 76%), m.p. 173°-5° C. UV: λmax (MeOH) 224 (ε 26,400), 310 (ε 7,600) nm. IR: υmax (KBr) 3500, 3410, 3330, 3200, 3100, 1645, 1630, 1615, 1560, 1520, 1470 cm-1. 1H NMR: δH [(CD3)2SO] 3.42 (2H, m, CH2OH), 3.78 (1H, m, CHOH), 4.20 (1H, dd, J=10.7, 7.3 Hz, CH2ON), 4.41 ( 1H, dd, J=10.7, 3.2 Hz, CH2ON), 4.74 (1H, t, J=5.7 Hz, OH), 5.14 (1H, d, J=5.2 Hz), 7.13 (2H, br.s, NH2), 8.36 (1H, s, H-8). Found: C, 36.41; H. 3.91, N, 25.91%, M+ 259.0462. C8H10ClN5O3.0.3H2O requires C, 36.18; H, 4.04; N, 26.35%, M+ 259.0469.

reactant | 9-allyloxy-2-amino-6-chloropurine | 1.66 mmol, 374 mg | C(C=C)ON1C2=NC(=NC(=C2N=C1)Cl)N | C8H8ClN5O
reactant | 4-methylmorpholine N-oxide | 2.49 mmol, 290 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 2-Amino-6-chloro-9-(2,3-dihydroxyprop-1-oxy) purine | 325 mg, 76% | NC1=NC(=C2N=CN(C2=N1)OCC(CO)O)Cl | C8H10ClN5O3
